US06514965B1
3(R,S)-tert-Butoxycarbonyl-1-ethyl-8-methoxy-7-(piperazin-1-yl)-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one
An oven-dried flask, charged with 7-bromo-3(R,S)-tert-butoxycarbonyl-1-ethyl-8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one (48 mg, 0.121 mmol), piperazine (12.64 mg, 0.145 mmol), Pd(OAc)2 (2.72 mg, 0.0121 mmol, 10 mole), BINAP (11.65 mg, 0.0182 mmol) was purged with argon for 5 min. After addition of anhydrous toluene (1 mL) through a syringe followed by sodium tert-butoxide (16.78 mg, 0.169 mmol) in one portion, the flask was purged with argon, vigorously stirred and heated at 80° C. for 22 hrs. The course of the reaction was monitored by TLC. The reaction mixture was diluted with DCM (20 mL), percolated through a short column of Celite and evaporated to dryness. Purification of a crude product using preparative silica TLC developed with MeOH/DCM (1:4) provided the desired compound (8.0 mg, 16%) as a white crystalline product.

reactant | 7-bromo-3(R,S)-tert-butoxycarbonyl-1-ethyl-8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one | 0.121 mmol, 48 mg | BrC=1C(=CC2=C(CCC(C(N2CC)=O)C(=O)OC(C)(C)C)C1)OC | C18H24BrNO4
reactant | piperazine | 0.145 mmol, 12.64 mg | N1CCNCC1 | C4H10N2
reactant | BINAP | 0.0182 mmol, 11.65 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 0.169 mmol, 16.78 mg | CC(C)([O-])C.[Na+]
catalyst | Pd(OAc)2 | 0.0121 mmol, 2.72 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3(R,S)-tert-Butoxycarbonyl-1-ethyl-8-methoxy-7-(piperazin-1-yl)-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one | 8.0 mg, 16% | C(C)(C)(C)OC(=O)C1C(N(C2=C(CC1)C=C(C(=C2)OC)N2CCNCC2)CC)=O | C22H33N3O4
